US07582629B2
2-Isopropyl-4-[(4-morpholin-4-ylphenyl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide
A mixture of 4-chloro-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide (0.150 g, 0.525 mmol), (4-morpholin-4-ylphenyl)amine (0.094 g, 0.525 mmol) and TEA (0.070 ml, 0.525 mmol) in MeCN (2 ml) was heated in a microwave reactor at 150° C. for 15 mins and 160° C. for 30 mins. The reaction mixture was evaporated and the residue was purified by silica gel column chromatography using 35% EtOAc in hexane as eluent, to give the title compound (0.157 g, 70%). 1H NMR (500 MHz CDCl3): δ 7.24-7.18 (m, 1H), 7.15-7.10 (m, 5H), 6.64 (d, 2H), 6.59 (bs, 2H), 4.54-4.45 (m 1H), 3.85 (bs, 4H), 3.03 (bs, 4H), 1.65 (d, 6H); 13C NMR (125 MHz CDCl3): δ 159.1, 131.3, 129.5, 128.9, 128.2, 125.2, 123.6, 15.9, 66.8, 50.0, 47.9, 20.5; Mass spectrum: M+H+ 428.

reactant | 4-chloro-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.525 mmol, 0.150 g | ClC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)C)=O | C12H12ClNO3S
reactant | (4-morpholin-4-ylphenyl)amine | 0.525 mmol, 0.094 g | N1(CCOCC1)C1=CC=C(C=C1)N | C10H14N2O
solvent | MeCN | 2 ml | CC#N | C2H3N
product | 2-Isopropyl-4-[(4-morpholin-4-ylphenyl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.157 g, 70% | C(C)(C)N1S(C(=C(C1=O)NC1=CC=C(C=C1)N1CCOCC1)C1=CC=CC=C1)(=O)=O | C22H25N3O4S
